US04081452
In the manner given in Example 16, a solution of N-methylhydroxylamine in dimethylformamide is treated with sodium hydride suspended in mineral oil, and the mixture is treated with 8-bromo-1-(chloromethyl)-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine to give 8-bromo-1-[(methylhydroxyamino)methyl]-6-(2-pyridyl)4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | N-methylhydroxylamine | CNO | CH5NO
reactant | sodium hydride | [H-].[Na+]
reactant | 8-bromo-1-(chloromethyl)-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=NC=CC=C3)C1 | C16H11BrClN5
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-bromo-1-[(methylhydroxyamino)methyl]-6-(2-pyridyl)4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)CN(O)C)C3=NC=CC=C3)C1 | C17H15BrN6O
